US06528510B1
(5-tert-Butyl-2-methyl-phenyl)-carbamic acid tert-butyl ester
5-tert-Butyl-2-methyl-phenylamine (50 g, 307 mmol) in 500 mL of hexanes was treated with di-t-butyl dicarbonate (80.3 g, 368 mmol.). The reaction mixture was kept under reflux overnight. After cooling to room temperature, the reaction mixture was diluted with EtOAc, washed with saturated NaHCO3 solution and brine, and dried (MgSO4). After evaporation of the solvents, the crude reaction mixture was purified by flash silica gel chromatography to give the title compound. MS(APCI): 262 (M−H).

reactant | 5-tert-Butyl-2-methyl-phenylamine | 307 mmol, 50 g | C(C)(C)(C)C=1C=CC(=C(C1)N)C | C11H17N
reactant | di-t-butyl dicarbonate | 368 mmol, 80.3 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (5-tert-Butyl-2-methyl-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=CC(=C1)C(C)(C)C)C)=O | C16H25NO2
